US07691882B2
5-Trimethylsilanylethynyl-pyridin-2-ylamine
To a solution of 2-nitro-5-trimethylsilanylethynyl-pyridine (405 mg, 1.84 mmol) described in Manufacturing Example 28-1-1 in tetrahydrofuran (10 mL) and water (5 mL) were added iron powder (514 mg, 9.21 mmol) and ammonium chloride (197 mg, 3.69 mmol) at room temperature, which was stirred for 75 minutes at 70° C. The reaction solution was cooled to room temperature and filtered through a Celite pad, and the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (319 mg, 91%).

reactant | 2-nitro-5-trimethylsilanylethynyl-pyridine | 1.84 mmol, 405 mg | [N+](=O)([O-])C1=NC=C(C=C1)C#C[Si](C)(C)C | C10H12N2O2Si
reactant | water | 5 mL | O | H2O
reactant | ammonium chloride | 3.69 mmol, 197 mg | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | iron | 9.21 mmol, 514 mg | [Fe] | Fe
product | 5-Trimethylsilanylethynyl-pyridin-2-ylamine | 319 mg, 91% | C[Si](C)(C)C#CC=1C=CC(=NC1)N | C10H14N2Si
